US04983596
To a solution of allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate (621 mg) in ethyl acetate (10 ml) was added rhodium(II) octanoate (10 mg) under nitrogen atmosphere, which was heated under reflux for 30 minutes. The solvent was evaporated and the remaining ethyl acetate was removed as the acetonitrile (10 ml) azeotrope to give a residue, which was dissolved in acetonitrile (10 ml) and cooled to 0° C. under nitrogen atmosphere. To the solution were added diphenyl chlorophosphate (480 μl), N,N-diisopropyl-N-ethylamine (421 μl) and N,N-dimethylacetamide (5 ml), and the solution was stirred for 10 hours at 0° C. To the solution was added at 0° C. a reaction mixture of (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(2-fluoropropyl)oxymethylpyrrolidine (790 mg) and 28% sodium methoxide (485 μl) in acetonitrile (5 ml) which reaction had been carried out at -20° C. for 15 minutes. The reaction mixture was allowed to warm at ambient temperature and stirred for 5 hours, which was poured into a mixture of ethyl acetate (50 ml) and water (20 ml). The organic layer was separated, washed with brine, dried over magnesium sulfate and evaporated in vacuo to give a residue, which was chromatographed on silica gel (100 ml) eluting with a mixture of hexane and ethyl acetate (1:1-1:2 V/V) to give allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-fluoropropyl)oxymethylpyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (300 mg).

reactant | allyl (4R)-2-diazo-4-[(2R,3S)-3-{(1R)-1-hydroxyethyl}-4-oxoazetidin-2-yl]-3-oxopentanoate | 621 mg | [N+](=[N-])=C(C(=O)OCC=C)C([C@H](C)[C@H]1NC([C@@H]1[C@@H](C)O)=O)=O | C13H17N3O5
reactant | diphenyl chlorophosphate | 480 μl | P(=O)(OC1=CC=CC=C1)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | N,N-diisopropyl-N-ethylamine | 421 μl | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (2S,4S)-4-acetylthio-1-allyloxycarbonyl-2-(2-fluoropropyl)oxymethylpyrrolidine | 790 mg | C(C)(=O)S[C@H]1C[C@H](N(C1)C(=O)OCC=C)COCC(C)F | C14H22FNO4S
reactant | sodium methoxide | 485 μl | C[O-].[Na+]
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
catalyst | rhodium(II) octanoate | 10 mg | C(CCCCCCC)(=O)[O-].[Rh+2].C(CCCCCCC)(=O)[O-]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 20 ml | O | H2O
solvent | N,N-dimethylacetamide | 5 ml | CN(C(C)=O)C | C4H9NO
product | allyl (4R,5S,6S)-3-[(2S,4S)-1-allyloxycarbonyl-2-(2-fluoropropyl)oxymethylpyrrolidin-4-yl]thio-6-[(1R)-1-hydroxyethyl]-4-methyl-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 300 mg | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC1=C(N2C([C@@H]([C@H]2[C@H]1C)[C@@H](C)O)=O)C(=O)OCC=C)COCC(C)F | C25H35FN2O7S
